Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Bactrim / Nafcillin / Lisinopril / difficult intubation requires 
LMA
 
Attending: ___.
 
Chief Complaint:
Right hand pain and discoloration
 
Major Surgical or Invasive Procedure:
___: EGD

 
History of Present Illness:
___ w/ h/o CAD s/p CABG x4, multiple cardiac stents, ESRD on PD, 
DM2, and LLE osteo who presents with painful R fingers for past 
week. She noticed "pins and needles" sensation in her right ___ 
digits since last ___. A few days later, she noticed color 
changes to her fingers, up to dark purple hue. She saw her PCP 
today, who referred her to a vascular surgeon, who recommended 
she come to the ED for further evaluation. She has not had any 
other symptoms, denies fevers, chills, nausea, vomiting, chest 
pain, or shortness of breath. Her left had has not had any 
symptoms. She denies specifically a history of atrial 
fibrillation, and she is a non-smoker.
 
Past Medical History:
PMH: CAD s/p CABG and multiple cath/stents, DM2 c/b retinopathy 
and neuropathy, HTN, HL, dCHF, ESRD on PD, obesity, LLE charcot 
ankle c/b osteomyelitis ___ s/p debridement, dieulafoy's lesion 
c/b massive GI bleed

PSH: CABG x5v ___, PD catheter placement 

 
Social History:
___
Family History:
significant for CAD
 
Physical Exam:
Vitals: 98.0, 73, 101/59, 18, 100 3LNC
Gen: NAD, AOx3
CV: RRR, no murmurs
Pulm: CTAB, unlabored
Abd: soft, nontender, nondistended
Ext: WWP lower extremities, minimal edema. faintly palpable
radial pulses in bilateral upper extremity, RUE: ___ digit with
distal ischemia, ___ - ___ digit w/ light purple discoloration 
and slow capillary refill, tender to palpation, dopplerable arch 
signals

 
Pertinent Results:
___ 06:40AM BLOOD WBC-13.2* RBC-2.57* Hgb-8.3* Hct-27.1* 
MCV-106* MCH-32.2* MCHC-30.5* RDW-16.6* Plt ___
___ 06:40AM BLOOD ___ PTT-35.1 ___
___ 06:40AM BLOOD Glucose-144* UreaN-55* Creat-11.1* Na-135 
K-4.0 Cl-89* HCO3-27 AnGap-23*
___ 06:00AM BLOOD ALT-16 AST-15 AlkPhos-95 TotBili-0.3
___ 06:40AM BLOOD Calcium-9.4 Phos-8.6* Mg-2.1
 
Brief Hospital Course:
Patient was admitted to the vascular surgery service on ___ 
with pain and discoloration of her right ___ digit.  A CTA was 
obtained which was significant for:

Patent flow from the aortic arch, right brachiocephalic artery 
to the 
radial and ulnar arteries at the level of the wrist, without 
occlusion or high 
grade stenosis. Multifocal moderate to severe narrowing of the 
distal ulnar 
artery.  Assessment of patency of the arteries distal to the 
wrist within the hand 
is markedly limited due to extensive atherosclerotic 
calcifications and the 
small caliber of these arteries.

Due to concern for arterial embolic disease, she was started on 
a heparin drip.  Because she had a history of GI bleed ___ 
dieulafoy's lesion, a GI consult was obtained to determine risk 
of anticoagulation.  On ___, she was started on coumadin, 5 mg, 
and also received 5 mg on ___. She was started on high dose 
omeprazole, and on ___, GI performed an EGD.  They did not see 
any bleeding or nidus for bleed, however, they were unable to 
perform a full evaluation ___ food in the stomach.  GI 
determined that the area of her previous bleed appeared stable, 
and she would be safe to anticoagulate with a goal INR of 
2.0-3.0 while on omeprazole 40 mg daily.  She was deemed 
appropriate for discharge on ___, and will follow up with Dr. 
___ INR and coumadin dosing.
 
Medications on Admission:
crestor 40', epogen 2000unit/mL, Humalog SSI, Lantus 12u qam 36u 
qpm, renal caps', renvela 800 w/ meals TID, zetia 10', ASA 325', 
ferrous gluconate 324mg', gabapentin 100'', gentamicin topical 
cream to PD site, lorazepam 1' prn, metoclopramide 5'''', 
midodrine 10'', omeprazole 20', sertraline 100'

 
Discharge Medications:
1. Rosuvastatin Calcium 40 mg PO DAILY 
2. Nephrocaps 1 CAP PO DAILY 
3. sevelamer CARBONATE 2400 mg PO TID W/MEALS 
4. Ezetimibe 10 mg PO DAILY 
5. Aspirin 325 mg PO DAILY 
6. Ferrous GLUCONATE 324 mg PO DAILY 
7. Gabapentin 100 mg PO BID 
8. Lorazepam 1 mg PO DAILY:PRN anxiety 
9. Nystatin Cream 1 Appl TP BID 
10. Omeprazole 40 mg PO DAILY 
11. Metoclopramide 5 mg PO QIDACHS 
12. Midodrine 10 mg PO BID 
13. Sertraline 100 mg PO DAILY 
14. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth Q4HRS 
Disp #*80 Tablet Refills:*0
15. Warfarin 2 mg PO DAILY16 
Please start this dose on ___. Follow INR closely while on 
coumadin and adjust dose as needed 
RX *warfarin [Coumadin] 2 mg 1 tablet(s) by mouth Daily Disp 
#*20 Tablet Refills:*0
16. Senna 1 TAB PO BID:PRN constipation 
17. Docusate Sodium 100 mg PO BID 
18. Glargine 12 Units Breakfast
Glargine 36 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
19. Glucose Gel 15 g PO PRN hypoglycemia protocol 
20. Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right hand ischemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
You were admitted to the vascular surgery service with right 
hand pain and color changes in your fingers concerning for 
ischemia.  A CT angiogram showed extensive atherosclerotic 
calcifications in your hand distal to the wrist.  You were 
anticoagulated with a heparin drip, and transitioned to oral 
coumadin (warfarin) to take as an outpatient.  Your INR 
(coumadin level) is now therapeutic, between 2.0-3.0 and you are 
ready to return home.  You will be on coumadin for the next 
three months to treat a likely arterial embolic event.  You 
should follow your INR very closely with your primary doctor, 
and adjust the coumadin dose as needed.  Coumadin puts you at an 
increased risk of bleeding, so please be vigilant in monitoring 
these INR leves as well as any signs/symptoms of bleeding.

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
 
Followup Instructions:
___